US09255089B2
To a mixture of 4-(4-bromo-3-iodo-5-nitrophenyl)-3,5-dimethylisoxazole (1 g, 2.36 mmol, 1 equiv.) in a pressure tube was added NMP (10 mL) and cyclopropylamine (982 μL, 14.2 mmol, 6 equiv.). The mixture was heated to 130° C. for 60 minutes in a microwave reactor. The reaction was concentrated under reduced pressure and purified by flash column chromatography to provide N-cyclopropyl-4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitroaniline.

reactant | 4-(4-bromo-3-iodo-5-nitrophenyl)-3,5-dimethylisoxazole | 2.36 mmol, 1 g, 1 equiv. | BrC1=C(C=C(C=C1[N+](=O)[O-])C=1C(=NOC1C)C)I | C11H8BrIN2O3
reactant | cyclopropylamine | 14.2 mmol, 982 μL, 6 equiv. | C1(CC1)N | C3H7N
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | N-cyclopropyl-4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitroaniline | C1(CC1)NC1=C(C=C(C=C1[N+](=O)[O-])C=1C(=NOC1C)C)I | C14H14IN3O3
